US06784137B2
A solution of 3,4-dimethylphenylboronic acid (2.1 g, 14.0 mmol), cesium fluoride (6.3 g, 41.5 mmol), 1,4-bis(diphenylphosphino)butane (0.5 g, 1.2 mmol), methyl 4-amino-3,6-dichloropyridine-2-carboxylate (2.5 g, 10.0 mmol) and triethylamine (5 mL) in acetonitrile (100 mL) was sparged for thirty minutes with nitrogen. Palladium acetate (0.3 g, 1.2 mmol) was added and the reaction mixture heated under reflux for three hours. After cooling water (200 mL) was added and the mixture extracted with ethyl acetate (2×100 mL). The organic layer was washed with brine (100 mL), dried (NaSO4), and concentrated. The residue was purified by column chromatography (33 percent ethyl acetate in hexane) to give methyl 4-amino-3-chloro-6-(3,4-dimethylphenyl)pyridine-2-carboxylate (1.4 g, 5.0 mmol), mp 154-156° C.

reactant | 3,4-dimethylphenylboronic acid | 14.0 mmol, 2.1 g | CC=1C=C(C=CC1C)B(O)O | C8H11BO2
reactant | cesium fluoride | 41.5 mmol, 6.3 g | [F-].[Cs+]
reactant | 1,4-bis(diphenylphosphino)butane | 1.2 mmol, 0.5 g | C1(=CC=CC=C1)P(CCCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H28P2
reactant | methyl 4-amino-3,6-dichloropyridine-2-carboxylate | 10.0 mmol, 2.5 g | NC1=C(C(=NC(=C1)Cl)C(=O)OC)Cl | C7H6Cl2N2O2
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
catalyst | Palladium acetate | 1.2 mmol, 0.3 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 200 mL | O | H2O
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
product | methyl 4-amino-3-chloro-6-(3,4-dimethylphenyl)pyridine-2-carboxylate | 5.0 mmol, 1.4 g | NC1=C(C(=NC(=C1)C1=CC(=C(C=C1)C)C)C(=O)OC)Cl | C15H15ClN2O2
